US04383945
To a solution of methyl 2-[(3S,4R)-3-{(1S)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (376 mg) and 4-dimethylaminopyridine (336 mg) in dichloromethane (3 ml) was added p-nitrobenzyl chloroformate (358 mg) at -30° C. under a nitrogen atmosphere. After stirring for one hour at 0° C., the mixture was diluted with ethyl acetate and washed with dilute hydrochloric acid, water, a dilute aqueous sodium bicarbonate, and brine. Drying over magnesium sulfate and the removal of the solvent left an oil (635 mg), which was chromatographed on silica gel (25 g) eluting with 10-25% ethyl acetate in hexane to afford methyl 3-methyl-2-[(3S,4R)-4-methylthio-3-{(1S)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]-but-2-enoate (566 mg) as an oil.

reactant | methyl 2-[(3S,4R)-3-{(1S)-1-hydroxyethyl}-4-methylthio-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 376 mg | O[C@@H](C)[C@H]1C(N([C@@H]1SC)C(C(=O)OC)=C(C)C)=O | C12H19NO4S
reactant | p-nitrobenzyl chloroformate | 358 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
catalyst | 4-dimethylaminopyridine | 336 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-methyl-2-[(3S,4R)-4-methylthio-3-{(1S)-1-(p-nitrobenzyloxycarbonyloxy)ethyl}-2-oxoazetidin-1-yl]-but-2-enoate | 566 mg | CC(=C(C(=O)OC)N1C([C@@H]([C@H]1SC)[C@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C20H24N2O8S
